US04351950
A solution of 3.5 g of 2-methoxyhydroquinone in 35 ml of methanol is stirred with 3.0 g of sodium methoxide for thirty minutes. 12.3 g of methyl 5-bromo-2,2-dimethylpentanoate is added and the mixture is refluxed for 24 hours. Methanol is removed under reduced pressure and the residue is poured into water. An oil separates, which is extracted with ether and the ether extract is washed with water, dried over anhydrous magnesium sulfate and the ether is evaporated. The residue is purified by distillation yielding the product, dimethyl 5,5'-[(2-methoxy-1,4-phenylene)bis(oxy)]bis[2,2-dimethylpentanoate] b.p. 200° C. at 0.2 mm of Hg; yield 6.6 g.

reactant | 2-methoxyhydroquinone | 3.5 g | COC1=C(O)C=CC(=C1)O | C7H8O3
reactant | sodium methoxide | 3.0 g | C[O-].[Na+]
reactant | methyl 5-bromo-2,2-dimethylpentanoate | 12.3 g | BrCCCC(C(=O)OC)(C)C | C8H15BrO2
reactant | methanol | 35 ml | CO | CH4O
product | dimethyl 5,5'-[(2-methoxy-1,4-phenylene)bis(oxy)]bis[2,2-dimethylpentanoate] | COC1=C(C=CC(=C1)OCCCC(C(=O)OC)(C)C)OCCCC(C(=O)OC)(C)C | C23H36O7
